US08426411B2
A mixture of N-((1S,3R,4S)-3-ethyl-4-isocyanatocyclopentyl)cyclopropanesulfonamide (0.972 g, 3.76 mmol) and aqueous HCl (6 N, 31.4 mL, 188 mmol) was heated at about 100° C. for about 60 h. Aqueous HCl (12 N, 5 mL) was added and the reaction mixture was heated at about 100° C. for about 18 h. The reaction mixture was cooled to ambient temperature and concd under reduced pressure. The residue was treated with Et2O (10 mL) and EtOAc (10 mL). The mixture was concd under reduced pressure. Water (5 mL) was added and the sample was lyophilized to give N-((1S,3S,4R)-3-amino-4-ethylcyclopentyl)cyclopropane-sulfonamide hydrochloride (0.859 g, 85%) as a white solid: LC/MS (Table 1, Method a) Rt=1.28 min; MS m/z 233 (M+H)+.

reactant | N-((1S,3R,4S)-3-ethyl-4-isocyanatocyclopentyl)cyclopropanesulfonamide | 3.76 mmol, 0.972 g | C(C)[C@@H]1C[C@@H](C[C@@H]1N=C=O)NS(=O)(=O)C1CC1 | C11H18N2O3S
reactant | HCl | 188 mmol, 6 N, 31.4 mL | Cl | ClH
reactant | HCl | 12 N, 5 mL | Cl | ClH
reactant | Et2O | 10 mL | CCOCC | C4H10O
reactant | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | Water | 5 mL | O | H2O
product | N-((1S,3S,4R)-3-amino-4-ethylcyclopentyl)cyclopropane-sulfonamide hydrochloride | 0.859 g, 85% | Cl.N[C@H]1C[C@H](C[C@H]1CC)NS(=O)(=O)C1CC1 | InChI=1S/C10H20N2O2S.ClH/c1-2-7-5-8(6-10(7)11)12-15(13,14)9-3-4-9;/h7-10,12H,2-6,11H2,1H3;1H/t7-,8+,10+;/m1./s1
